US07598423B2
Synthesis of sodium 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-hydroxy-methyl}-benzoate
Compound 3-{[4-(4-Acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-hydroxy-methyl}-benzoic acid (357 mg, 0.822 mmol) is stirred in a solution of ethyl acetate (4 mL) and tetrahydrofuran (4 mL) at room temperature. A solution of sodium 2-ethylhexanoate (150 mg, 0.904 mmol) in ethyl acetate (2 mL) is added and the reaction is stirred overnight. The reaction is concentrated and the resulting thick oil is diluted with ether (5 mL) and stirred vigorously. The resulting white precipitate is filtered, and dried under vacuum to give the title compound as a white solid (94%). 1H NMR (DMSO-d6) δ 12.85 (s, 1H), 7.86 (s, 1H), 7.81 (d, 1H), 7.69 (d, 1H), 7.38-7.39 (m, 4H), 7.33 (d, 1H), 7.19 (t, 1H), 6.72 (d, 1H), 5.84 (d, 1H), 5.70 (d, 1H), 5.22 (s, 2H), 2.57-2.62 (m, 5H), 1.46-1.53 (m, 2H), 0.88 (t, 3H). LCMS M−1 433 (parent acid).

reactant | 3-{[4-(4-Acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-hydroxy-methyl}-benzoic acid | 0.822 mmol, 357 mg | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C(=O)O)C=CC2)O)C=C1)CCC)O | C26H26O6
reactant | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
reactant | sodium 2-ethylhexanoate | 0.904 mmol, 150 mg | C(C)C(C(=O)[O-])CCCC.[Na+]
solvent | ethyl acetate | 2 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
product | sodium 3-{[4-(4-acetyl-3-hydroxy-2-propyl-phenoxymethyl)-phenyl]-hydroxy-methyl}-benzoate | 94% | C(C)(=O)C1=C(C(=C(OCC2=CC=C(C=C2)C(C=2C=C(C(=O)[O-])C=CC2)O)C=C1)CCC)O.[Na+] | InChI=1S/C26H26O6.Na/c1-3-5-22-23(13-12-21(16(2)27)25(22)29)32-15-17-8-10-18(11-9-17)24(28)19-6-4-7-20(14-19)26(30)31;/h4,6-14,24,28-29H,3,5,15H2,1-2H3,(H,30,31);/q;+1/p-1
